US08735424B2
A heterogeneous solution of (S)-tert-butyl 1-(6-(6-chloro-3-nitropyridin-2-yl)-1,7-naphthyridin-4-yl)piperidin-3-ylcarbamate (1.0 eq.) and iron (6.0 eq) in acetic acid, at a concentration of 0.4 M, was stirred vigorously for 14 hours. The mixture was then passed through a celite pad, eluting with MeOH. Upon removal of the volatiles in vacuo, the residue was dissolved in EtOAc, washed with Na2CO3(sat.), NaCl(sat.), was dried over MgSO4, was filtered and the volatiles were removed in vacuo yielding (S)-tert-butyl 1-(6-(3-amino-6-chloropyridin-2-yl)-1,7-naphthyridin-4-yl)piperidin-3-ylcarbamate (77%). LCMS (m/z): 455.2 (MH+); LC Rt=3.10 min.

reactant | (S)-tert-butyl 1-(6-(6-chloro-3-nitropyridin-2-yl)-1,7-naphthyridin-4-yl)piperidin-3-ylcarbamate | 1.0 eq. | ClC1=CC=C(C(=N1)C=1C=C2C(=CC=NC2=CN1)N1C[C@H](CCC1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C23H25ClN6O4
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | iron | 6.0 eq | [Fe] | Fe
product | (S)-tert-butyl 1-(6-(3-amino-6-chloropyridin-2-yl)-1,7-naphthyridin-4-yl)piperidin-3-ylcarbamate | 77% | NC=1C(=NC(=CC1)Cl)C=1C=C2C(=CC=NC2=CN1)N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C23H27ClN6O2
